US07619096B2
(3S)-N-{[2-Chloro-4-fluorophenyl]methyl}-N-(1-methylethyl)pyrrolidin-3-amine L-tartrate
To a solution of 1,1-dimethylethyl (3S)-3-[(1-methylethyl)amino]-pyrrolidine-1-carboxylate (0.5 g, 2.19 mmol) and 2-chloro-4-fluorobenzaldehyde (1.23 g, 4.38 mmol) in dichloroethane (15 mL) at room temperature under a nitrogen atmosphere was added portionwise sodium triacetoxyborohydride (1.16 g, 5.48 mmol). The reaction was stirred at room temperature for 72 hours. After this time analysis showed that some starting material was still present so an additional equivalent of the benzaldehyde and sodium triacetoxyborohydride was added, and the reaction stirred overnight. Starting material was still evident therefore a further equivalent of both benzaldehyde and sodium triacetoxyborohydride was added, together with DMF (2 mL). After 16 h all remaining starting material had disappeared. The reaction was evaporated to dryness in vacuo. The resulting residue was dissolved in methanol and absorbed onto a cationic ion exchange resin (Isolute™ SCX-2). The basic components were recovered from the column by elution with 7N ammonia in methanol. This solution was concentrated in vacuo to yield the desired compound as an oil. This was used directly in the next step without further purification.

reactant | 1,1-dimethylethyl (3S)-3-[(1-methylethyl)amino]-pyrrolidine-1-carboxylate | 2.19 mmol, 0.5 g | CC(C)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C | C12H24N2O2
reactant | 2-chloro-4-fluorobenzaldehyde | 4.38 mmol, 1.23 g | ClC1=C(C=O)C=CC(=C1)F | C7H4ClFO
reactant | sodium triacetoxyborohydride | 5.48 mmol, 1.16 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | dichloroethane | 15 mL | ClC(C)Cl | C2H4Cl2
product | (3S)-N-{[2-Chloro-4-fluorophenyl]methyl}-N-(1-methylethyl)pyrrolidin-3-amine L-tartrate | C(=O)(O)[C@H](O)[C@@H](O)C(=O)O.ClC1=C(C=CC(=C1)F)CN([C@@H]1CNCC1)C(C)C | InChI=1S/C14H20ClFN2.C4H6O6/c1-10(2)18(13-5-6-17-8-13)9-11-3-4-12(16)7-14(11)15;5-1(3(7)8)2(6)4(9)10/h3-4,7,10,13,17H,5-6,8-9H2,1-2H3;1-2,5-6H,(H,7,8)(H,9,10)/t13-;1-,2-/m01/s1
